US04230850
7-Methoxy-4-(2'-morpholinoethoxy)-3-phenyl-coumarin
This compound is prepared according to the method described in Example 8 from 24.2 g. (0.09 mol) of 3-phenyl-4-hydroxy-7-methoxy-coumarin and 17.5 g. (0.117 mol) of 2-morpholino-1-chlorethane. After recrystallisation from a mixture of diisopropyl ether and ethyl acetate (70-30), 24.3 g. of a white solid are obtained. M.P. 95°-96° C.; yield 70.8% (theoretical yield 34.3 g.).

reactant | 3-phenyl-4-hydroxy-7-methoxy-coumarin | 0.09 mol | C1(=CC=CC=C1)C=1C(OC2=CC(=CC=C2C1O)OC)=O | C16H12O4
reactant | 2-morpholino-1-chlorethane | 0.117 mol | O1CCN(CC1)CCCl | C6H12ClNO
product | 7-Methoxy-4-(2'-morpholinoethoxy)-3-phenyl-coumarin | yield 70.8% | COC1=CC=C2C(=C(C(OC2=C1)=O)C1=CC=CC=C1)OCCN1CCOCC1 | C22H23NO5
